US09120777B2
B) 1-(1-((6-Cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid
A 2 M aqueous sodium hydroxide solution (2 mL) was added at room temperature to an ethanol (8 mL) solution of methyl 1-(1-((6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylate (283 mg), and the mixture was stirred at 80 C for 3 hours in a nitrogen atmosphere. Then, the solvent was distilled off under reduced pressure. Water was added to the obtained residue, and the mixture was neutralized with 2 M hydrochloric acid. The deposited crystal was collected by filtration and dissolved in ethanol. The obtained solution was filtered, and then, the filtrate was concentrated under reduced pressure. The obtained residue was crystallized (hexane/ethyl acetate) and further recrystallized (hexane/ethyl acetate) to obtain the title compound (151 mg).

reactant | sodium hydroxide | 2 M, 2 mL | [OH-].[Na+]
reactant | methyl 1-(1-((6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylate | 283 mg | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)OC)C)=O | C31H34F2N2O4
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 1-(1-((6-Cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid | 151 mg | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)O)C)=O | C30H32F2N2O4
